US06548496B2
To 1 g of 6-chloro-4-hydroxy-[1,7]naphthyridine-3-carbonitrile in 5 mL each dimethyl formamide and triethyl amine was added 1 g triphenyl phosphine, 7 mL of trimethylsilanylethyne, and 225 mg of palladium (II) acetate. The reaction was heated at 120° C. for 18 hours, stripped of solvent, and purified by flash chromatography on silica gel with a methanol/chloroform gradient. Recrystallization from ethanol containing a small amount of water yielded 690 mg of 4-hydroxy-6-trimethylsilanylethynyl-[1,7]naphthyridine-3-carbonitrile: melting point 307° C. (decomposed); mass spectrum (m/e): M+H 268.0.

reactant | 6-chloro-4-hydroxy-[1,7]naphthyridine-3-carbonitrile | 1 g | ClC=1C=C2C(=C(C=NC2=CN1)C#N)O | C9H4ClN3O
reactant | triphenyl phosphine | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilanylethyne | 7 mL | C[Si](C)(C)C#C | C5H10Si
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
catalyst | palladium (II) acetate | 225 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-hydroxy-6-trimethylsilanylethynyl-[1,7]naphthyridine-3-carbonitrile | 690 mg | OC1=C(C=NC2=CN=C(C=C12)C#C[Si](C)(C)C)C#N | C14H13N3OSi
